US09169270B2
(±)-4-(2-Carboxymethoxy-5-chloro-phenyl)-2-dimethylamino-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester (C24H24N3O5ClS, MW=501.11)
A solution of (±)-2-bromo-4-(2-carboxymethoxy-5-chloro-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester (21 mg, 0.04 mmol, 1.0 eq.) in 2M dimethylamine in THF (0.5 mL) was heated at 80° C. for 18 hours. The reaction mixture was allowed to cool to r.t. and concentrated in vacuo. The residue was taken up in DMF, filtered, and purified by prep. HPLC (column: Atlantis, 30×75 mm, 10 um, UV/MS, acidic conditions) and concentrated in vacuo to give the title compound as a white solid.

reactant | (±)-2-bromo-4-(2-carboxymethoxy-5-chloro-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | 0.04 mmol, 21 mg, 1.0 eq. | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=C(S2)Br)C2=C(C=CC(=C2)Cl)OCC(=O)O | C22H18BrClN2O5S
reactant | dimethylamine | 2M | CNC | C2H7N
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (±)-4-(2-Carboxymethoxy-5-chloro-phenyl)-2-dimethylamino-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=C(S2)N(C)C)C2=C(C=CC(=C2)Cl)OCC(=O)O | C24H24ClN3O5S
